US05614518
2-((2(RS)-(Phenoxymethyl)morpholin-4-yl)methyl)benzimidazole
2-(Chloromethyl)benzimidazole (172 mg, 1.03 mmol) and 2(RS)-(phenoxymethyl)morpholine (200 mg) were heated in ethanol (8 ml) at 80° C. (oil bath temperature) in the presence of potassium carbonate (142 mg, 1.03 mmol) for 2 hours. The mixture was cooled then evaporated to dryness. The residue was partitioned between water (10 ml) and ethyl acetate (25 ml). The organic layer was separated and the aqueous re-extracted with ethyl acetate (25 ml). The combined organics were dried (sodium sulphate) then evaporated to give a beige gum which was purified by column chromatography on silica (150 g) using ethyl acetate to ethyl acetate/methanol (25:1) to afford the title compound as a pale yellow solid (220 mg, 66%). mp 171°-172° C. (ethyl acetate/n-hexane). MS, CI+, mz=324 for (M+H)+. 1H NMR (360 MHz, CDCl3) δ2.40 (1H, dd, J1 =J2 =10 Hz), 2.51 (1H, ddd, J1 =3, J2 =J3 =10 Hz), 2.79 (1H, d, J=10 Hz), 2.99 (1H, d, J=10 Hz), 3.82 (1H, ddd, J1 =3, J2 =J3 =10 Hz), 3.91-4.06 (6H, m), 6.88 (2H, dd, J1 =1, J2 =8 Hz), 6.95 (1H, ddd, J1 =1, J2 =J3 =8 Hz), 7.24-7.29 (4H, m), 7.57-7.61 (2H, m). Found: C, 70.55; H, 6.51; N, 12.96. C19H21N3O2 requires C, 70.57; H, 6.55; N, 12.99%.

reactant | 2-(Chloromethyl)benzimidazole | 1.03 mmol, 172 mg | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
reactant | 2(RS)-(phenoxymethyl)morpholine | 200 mg | O(C1=CC=CC=C1)CC1CNCCO1 | C11H15NO2
reactant | potassium carbonate | 1.03 mmol, 142 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 2-((2(RS)-(Phenoxymethyl)morpholin-4-yl)methyl)benzimidazole | 220 mg, 66% | O(C1=CC=CC=C1)CC1CN(CCO1)CC=1NC2=C(N1)C=CC=C2 | C19H21N3O2
